US05028629
Methylene chloride (564 ml) is added to 2-n-butylthiocinnamic acid (40.0 g, 0.69 mol) and cooled in an ice bath. To the mixture is added DMF (13.1 ml, 0.169 mol) and then oxalyl chloride (34.0 ml, 0.389 mol) dropwise with the vigorous evolution of gas. After the oxalyl chloride addition is complete, the ice bath is removed and the reaction stirred at room temperature for 2 hours to afford 2-n-butylthiocinnamic acid chloride. Methylhydroxylamine hydrochloride salt (56.5 g, 0.677 mol) is dissolved in THF (50 ml) and water (70 ml) and further THF (96 ml) is added. The acid chloride is added dropwise then stopped so an additional THF (175 ml) and water (35 ml) can be added for solubility. The acid chloride addition is then continued with the reaction mixture being cooled in an ice bath. After the addition is complete, the reaction mixture is stirred at room temperature overnight.

reactant | 2-n-butylthiocinnamic acid | 0.69 mol, 40.0 g | C(CCC)C1=C(C=CC(=S)O)C=CC=C1 | C13H16OS
reactant | DMF | 0.169 mol, 13.1 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.389 mol, 34.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | Methylene chloride | 564 ml | C(Cl)Cl | CH2Cl2
product | 2-n-butylthiocinnamic acid chloride | C(CCC)C1=C(C=CC(=S)Cl)C=CC=C1 | C13H15ClS
